US07906517B2
(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(2H-tetrazol-5-yl)-amine (400 mg) is dissolved in N,N-dimethylformamide (3 ml) and thereto are added triethylamine (2 ml) and ethyl 4-bromobutyrate (278 μl) and the mixture is stirred at 50° C. for 3 hours. To reaction mixture is added water, and extracted with ethyl acetate, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to give ethyl 4-{5-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-tetrazol-2-yl}-butyrate (360 mg) MS (m/z): 732 [M+H]+

reactant | (3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(2H-tetrazol-5-yl)-amine | 400 mg | FC(C=1C=C(CN(C=2N=NNN2)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C28H24F9N5O
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 4-bromobutyrate | 278 μl | BrCCCC(=O)OCC | C6H11BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | ethyl 4-{5-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-tetrazol-2-yl}-butyrate | 360 mg | FC(C=1C=C(CN(C=2N=NN(N2)CCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C34H34F9N5O3
